US06610692B1
Step A: 5-t-Butoxycarbonylaminomethyl-6-azaindole
A solution of 5-aminomethyl-6-azaindole (220 mg, 1.0 mmol), di-t-butyl dicarbonate (240 mg, 1.1 mmol), triethylamine (307 μL, 2.2 mmol) and DMAP (10 mg) in methylene chloride (5 mL) was stirred for 16 h. The mixture was evaporated in vacuo and the residue was purified by flash column chromatography (5% methanol/chloroform) to give the title compound:

reactant | 5-aminomethyl-6-azaindole | 1.0 mmol, 220 mg | NCC=1C=C2C=CNC2=CN1 | C8H9N3
reactant | di-t-butyl dicarbonate | 1.1 mmol, 240 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 2.2 mmol, 307 μL | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-t-Butoxycarbonylaminomethyl-6-azaindole | C(C)(C)(C)OC(=O)NCC=1C=C2C=CNC2=CN1 | C13H17N3O2
